US08357693B2
To a solution of tert-butyl 5-(6-hydroxy-7-methoxy-2-(3-(nicotinamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.108 g, 0.179 mmol), 1-bromo-2-methoxyethane (0.054 g, 0.389 mmol) and K2CO3 (0.052 g, 0.449 mmol) in DMF (2 mL) were heated at 85° C. for 3 h. The mixture was allowed to cool to RT and the volatiles were removed in vacuo. The residue was purified by preparative tlc (SiO2, CH2Cl2/MeOH 9:1) to give tert-butyl 5-(7-methoxy-6-(2-methoxyethoxy)-2-(3-(nicotinamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate. The material was taken directly on to the next step. HPLC retention time 5.802 mins.

reactant | tert-butyl 5-(6-hydroxy-7-methoxy-2-(3-(nicotinamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.179 mmol, 0.108 g | OC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=CC=C1)NC(C1=CN=CC=C1)=O)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C33H29N7O5
reactant | 1-bromo-2-methoxyethane | 0.389 mmol, 0.054 g | BrCCOC | C3H7BrO
reactant | K2CO3 | 0.449 mmol, 0.052 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | tert-butyl 5-(7-methoxy-6-(2-methoxyethoxy)-2-(3-(nicotinamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | COC1=C(C=C2C(=NC(=NC2=C1)C1=CC(=CC=C1)NC(C1=CN=CC=C1)=O)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)OCCOC | C36H35N7O6
